US04239761
N,N-Diethyl-N'-methyl-N'-3-morpholinopropyl-urea hydrochloride
13 g (0.1 mole) of N,N-diethyl-N'methyl urea are dissolved in 100 cc. of anhydrous dioxane. 3.9 g (0.1 mole) of NaNH2 are added thereto and the reaction mixture is heated one hour at reflux. After cooling, 16.4 g (0.1 mole) of N-(3-chloropropyl)morpholine dissolved in 50 cc. of anhydrous dioxane are added thereto dropwise and the reaction mixture is refluxed for 6 hours. After cooling, the precipitated NaCl is filtered off with suction, the filtrate is evaporated and the remaining residue is subjected to fractionated distillation.

reactant | N,N-diethyl-N'methyl urea | 0.1 mole, 13 g | C(C)N(C(=O)NC)CC | C6H14N2O
reactant | N-(3-chloropropyl)morpholine | 0.1 mole, 16.4 g | ClCCCN1CCOCC1 | C7H14ClNO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N,N-Diethyl-N'-methyl-N'-3-morpholinopropyl-urea hydrochloride | Cl.C(C)N(C(=O)N(CCCN1CCOCC1)C)CC | InChI=1S/C13H27N3O2.ClH/c1-4-16(5-2)13(17)14(3)7-6-8-15-9-11-18-12-10-15;/h4-12H2,1-3H3;1H
